US06426345B1
A mixture of 2-benzyl-4-(3-carboxyphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (143 mg), ethylamine hydrochloride (39 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (92 mg) and triethylamine (49 mg) in dichloromethane (2 ml) and N,N-dimethylformamide (1 ml) was stirred at room temperature for 3 hours. The mixture was poured into ethyl acetate and washed with water and brine, dried over magnesium sulfate and concentrated. The residue was subjected to preparative thin layer chromatography (hexane-ethyl acetate, 1:4) to afford 2-benzyl-4-(3-ethylcarbamoylphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (16 mg) as powder.

reactant | 2-benzyl-4-(3-carboxyphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 143 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)C(=O)O)N=CC=C2 | C21H15N3O3
reactant | ethylamine hydrochloride | 39 mg | Cl.C(C)N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 92 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 49 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-benzyl-4-(3-ethylcarbamoylphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 16 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)C(NCC)=O)N=CC=C2 | C23H20N4O2
